US04497830
2(a) 3,3-Dimethyl-2-oxo-oct-5-inyl-phosphonic acid-dimethyl ester
To a suspension of 7.1 g of sodium hydride (50% suspension in oil) in 220 ml of absolute tetrahydrofuran a solution of 31.5 g of 3-methyl-2-oxo-butylphosphonic acid dimethyl ester in 74 ml of absolute tetrahydrofuran is added in drops at 24° C.; the product is stirred for 1.5 hours and then, at 0° C., 111 ml of a 1.6 molar butyl lithium solution in hexane is added drop by drop and stirred for 20 minutes. A solution of 29 g of 1-bromo-2-pentine in 44 ml of absolute tetrahydrofuran is then added to the above solution drop by drop, stirred for 3 hours at 0° C., neutralized with 3N of hydrochloric acid and concentrated in a vacuum. 50 ml of brine is added; extraction is performed three times, each time with 200 ml of methylene chloride; the organic extract is shaken twice, each time with 50 ml of brine; the product is dried with magnesium sulfate and concentrated by evaporation in a vacuum. After distillation of the residue at 0.6 Torr and 125° C., 23 g of the title compound is obtained in the form of a colorless liquid.

reactant | sodium hydride | 7.1 g | [H-].[Na+]
reactant | 3-methyl-2-oxo-butylphosphonic acid dimethyl ester | 31.5 g | COP(OC)(=O)CC(C(C)C)=O | C7H15O4P
reactant | butyl lithium | 1.6 molar | C(CCC)[Li]
reactant | 1-bromo-2-pentine | 29 g | BrCC#CCC | C5H7Br
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | tetrahydrofuran | 220 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 74 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 44 ml | O1CCCC1 | C4H8O
product | 3,3-Dimethyl-2-oxo-oct-5-inyl-phosphonic acid-dimethyl ester | 23 g | COP(OC)(=O)CC(C(CC#CCC)(C)C)=O | C12H21O4P
